US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(4-fluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
A mixture of methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate (20 mg, 0.049 mmol) in N,N-dimethylformamide (DMF) (0.5 mL) was treated with cesium carbonate (32 mg, 0.098 mmol) followed by 1-(bromomethyl)-4-fluorobenzene (13.88 mg, 0.073 mmol) and the mixture was heated to 80° C. for 80 minutes after which time the reaction was judged complete by LCMS and TLC. The mixture was concentrated and used in the next step without further purification. LC/MS (m/z) ES+=517.41 (M+1). A solution of crude methyl ester in MeOH/THF/water (2:2:1, 0.5 mL) was treated with LiOH (18 mg, 0.735 mmol) and the mixture was heated at 70° C. until the reaction was judged complete. The mixture was concentrated; water was added and then adjusted to pH 2 with 1N HCl. The mixture was extracted with ethyl acetate. The extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by reverse phase HPLC to afford the purified desired product (22.5 mg, 0.045 mmol, 91%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.50-7.44 (m, 1 H), 7.29-7.25 (m, 2 H), 7.23-7.16 (m, 1 H), 7.08-6.98 (m, 3 H), 6.94 (dd, J=5.8, 8.3 Hz, 1 H), 6.30 (dd, J=3.5, 10.7 Hz, 1 H), 5.66-5.54 (m, 2 H), 5.53-5.44 (m, 1 H), 4.29 (t, J=4.9 Hz, 2 H), 2.97-2.80 (m, 2 H), 2.79 (s, 3 H), 2.15-2.03 (m, 2 H), 1.05-0.87 (s, 9 H); LC/MS (m/z) ES+=503.32 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | 0.049 mmol, 20 mg | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | cesium carbonate | 0.098 mmol, 32 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(bromomethyl)-4-fluorobenzene | 0.073 mmol, 13.88 mg | BrCC1=CC=C(C=C1)F | C7H6BrF
reactant | LiOH | 0.735 mmol, 18 mg | [Li+].[OH-]
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | MeOH THF water | 0.5 mL | CO.C1CCOC1.O
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(4-fluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | 0.045 mmol, 22.5 mg, 91% | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC=C(C=C2)F)C=2C=C1CCCOC1=CC2 | C30H31FN2O4
